US07425568B2
2-(3-Methoxyphenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 2-(3-methoxyphenyl)chroman-4,6-diol. 1H NMR (300 MHz, d6-DMSO) δ: 8.75 (s, 1H), 7.28 (t, 1H, J 15.7, 7.9 Hz), 6.96-6.99 (m, 2H), 6.87 (dd, 1H, J 7.9, 2.5 Hz), 6.63 (d, 1H, J 8.3 Hz), 6.52 (d, 1H, J 2.9 Hz), 6.48 (s, 1H), 4.95 (dd, 1H, J 9.8, 2.2 Hz), 3.75 (s, 3H), 2.82-2.89 (m, 1H), 2.57-2.66 (m, 1H), 2.06-2.13 (m, 1H), 1.89-1.97 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(3-methoxyphenyl)chroman-4,6-diol | COC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C16H16O4
product | 2-(3-Methoxyphenyl)chroman-6-ol | COC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C16H16O3
